### PR TITLE
chore: normalise `sorry`s

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1101.lean [hunk 1]
```diff
@@ -55,12 +55,12 @@ def IsGood (u : ℕ → ℕ) : Prop :=
 
 /-- 1. There is NO good sequence with polynomial growth. -/
 @[category research open, AMS 11]
-theorem erdos_1101.polynomial : ¬ ∃ u, IsGood u ∧ ∃ k : ℕ, (fun n => (u n : ℝ)) =O[atTop] (fun n => (n : ℝ) ^ k) :=
+theorem erdos_1101.polynomial : ¬ ∃ u, IsGood u ∧ ∃ k : ℕ, (fun n => (u n : ℝ)) =O[atTop] (fun n => (n : ℝ) ^ k) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1101.lean]: Isn't this line too long?

File: FormalConjectures/ErdosProblems/1101.lean [hunk 2]
```diff
@@ -55,12 +55,12 @@ def IsGood (u : ℕ → ℕ) : Prop :=
...
   sorry
 
 /-- 2. There is a good sequence with sub-exponential growth. -/
 @[category research open, AMS 11]
-theorem erdos_1101.subexponential : ∃ u, IsGood u ∧ (fun n => Real.log (u n : ℝ)) =o[atTop] (fun n => (n : ℝ)) :=
+theorem erdos_1101.subexponential : ∃ u, IsGood u ∧ (fun n => Real.log (u n : ℝ)) =o[atTop] (fun n => (n : ℝ)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1101.lean]: Same here

File: FormalConjectures/ErdosProblems/680.lean [hunk 3]
```diff
@@ -45,6 +46,7 @@ $\epsilon>0$, where $C_\epsilon>0$ is some constant?
 @[category research open, AMS 11]
 theorem erdos_680.variant : answer(sorry) ↔ ∀ ε > 0, ∃ C > 0,
   ¬ ∀ᶠ (n : ℕ) in Filter.atTop, ∃ k ≠ 0,
-  Nat.minFac (n + k) > exp ((1 + ε) * √k) + C := sorry
+  Nat.minFac (n + k) > exp ((1 + ε) * √k) + C := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/680.lean]: Can you fix the indent too?

File: FormalConjectures/ErdosProblems/522.lean [hunk 4]
```diff
@@ -106,7 +106,7 @@ theorem erdos_522.variants.yakir_solution :
     ∃ p : ℕ → ℝ, Filter.Tendsto p Filter.atTop (𝓝 0) ∧
     ∀ (Ω : Type*) [MeasureSpace Ω] [IsProbabilityMeasure (ℙ : Measure Ω)]
       (n : ℕ) (hn : 2 ≤ n) (f : KacPolynomial n ({-1, 1} : Set ℂ) Ω),
-       (ℙ {ω | |(f.roots ω).countP (· ∈ Metric.closedBall 0 1) - (n / 2 : ℝ)| ≥ n^(9/10 : ℝ) }).toReal ≤ p n :=
+       (ℙ {ω | |(f.roots ω).countP (· ∈ Metric.closedBall 0 1) - (n / 2 : ℝ)| ≥ n^(9/10 : ℝ) }).toReal ≤ p n := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/522.lean]: Too long?
